US09403835B2
Step 1: 3-fluoro-4-(2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
NaH (55-65%; 44 mg; 1.09 mmol; 1.2 eq.) was added to a solution of 3-fluoro-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (200 mg; 0.91 mmol; 1 eq.) in THF (15 mL) and the resulting mixture was stirred at room temperature for 15 minutes whereupon 2-fluoro-benzaldehyde (113 mg; 0.91 mmol; 1 eq.) was added dropwise. The reaction mixture was stirred at room temperature for 15 hours then at 60° C. for a further 4 hours. NaH (44 mg; 1.09 mmol; 1.2 eq.) was added and the resulting mixture was stirred at 60° C. for 2 hours. The solution was diluted with brine extracted with EA (2×). The combined organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography (DCM then EtOAc) afforded the title compound (196 mg, 66%) as a yellow oil.

reactant | NaH | 1.09 mmol, 44 mg, 1.2 eq. | [H-].[Na+]
reactant | 3-fluoro-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.91 mmol, 200 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC(C(CC1)O)F | C10H18FNO3
reactant | 2-fluoro-benzaldehyde | 0.91 mmol, 113 mg, 1 eq. | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | NaH | 1.09 mmol, 44 mg, 1.2 eq. | [H-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 3-fluoro-4-(2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 196 mg, 66% | C(C)(C)(C)OC(=O)N1CC(C(CC1)OC1=C(C=CC=C1)C=O)F | C17H22FNO4
